US07902181B2
c) (S)-N-((S)-1-Cyano-2-(4-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethyl)piperidine-2-carboxamide
A solution of (S)-tert-butyl 2-((S)-1-cyano-2-(4-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethylcarbamoyl)piperidine-1-carboxylate (87 mg) in formic acid (1 mL) was stirred at 50° C. for 15 min. The solvent was removed in vacuo and the residue was purified by flash silica chromatography eluting with 1:29 ammonia in methanol/DCM to give a white solid, which was triturated with diethyl ether to give the title compound (46 mg) as a white solid.

reactant | (S)-tert-butyl 2-((S)-1-cyano-2-(4-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethylcarbamoyl)piperidine-1-carboxylate | 87 mg | C(#N)[C@H](CC1=CC=C(C=C1)C=1C=CC2=C(N(C(O2)=O)C)C1)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C28H32N4O5
solvent | formic acid | 1 mL | C(=O)O | CH2O2
product | (S)-N-((S)-1-Cyano-2-(4-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethyl)piperidine-2-carboxamide | 46 mg | C(#N)[C@H](CC1=CC=C(C=C1)C=1C=CC2=C(N(C(O2)=O)C)C1)NC(=O)[C@H]1NCCCC1 | C23H24N4O3
